US08057868B2
4,4′-methylenebis(cyclohexylamine);
1,3-bis(aminomethyl)cyclohexane; compounds represented by the formulae (35) to (69); 2,6-diaminopyridine; 3,4-diaminopyridine; 2,4-diaminopyrimidine; 3,6-diaminoacridine; 3,6-diaminocarbazole;

reactant | 1,3-bis(aminomethyl)cyclohexane | NCC1CC(CCC1)CN | C8H18N2
reactant | 2,6-diaminopyridine | NC1=NC(=CC=C1)N | C5H7N3
reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
reactant | 2,4-diaminopyrimidine | NC1=NC=CC(=N1)N | C4H6N4
reactant | 3,6-diaminoacridine | NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)N | C13H11N3
reactant | 3,6-diaminocarbazole | NC=1C=CC=2NC3=CC=C(C=C3C2C1)N | C12H11N3
product | 4,4′-methylenebis(cyclohexylamine) | C(C1CCC(CC1)N)C1CCC(CC1)N | C13H26N2
